Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-7.094063498
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],2.88840452533
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.859722361819999
[C:3][H:4].[O:1]=[C:2]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.35263801205
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:13]([H:14])([H:15])[H:16],8.489876974
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.61982817074
[C:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1[H:11]>>[C:1]#[C:2][C:10]([C@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[H:9])[H:11],0.25170594712
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8],4.2765072260300006
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.83673005232
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[O:2],2.12326344116
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],3.12108280789
[H:1][C:2]#[C:3][O:4][C:5][H:6].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],-4.3379153317800005
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][H:8]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-6.54968993166
[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],4.57271925585
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-2.621607331
[C:1].[C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-6.26578734284
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.96820075899
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7],3.78717924077
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-4.50503550163
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-4.01119075508
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],3.73923180999
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.95958246224
[H:1][C:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.86939737269
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.08273703332
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],5.6542242435
[C:6]([H:7])([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],1.03824587563
[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[O:8][C:9][H:10].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10],-3.46547443234
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.48323696431
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.9733760566400003
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.8210057692400003
